US05849732
Under ice-cooling, 3.46 g of benzyloxycarbonyl chloride was added dropwise to a mixed solution of 4.15 g of N-(4-piperidylmethyl)-N-benzylamine, 2.10 g of triethylamine and 200 ml of THF. After stirring the mixture at the same temperature for 3 hours and then at room temperature for 2 hours, water was added to the mixture and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent; chloroform:methanol=19:1) to give 3.41 g of N-(1-benzyloxycarbonylpiperidin-4-ylmethyl)-N-benzylamine (yield: 50%, IR: 1702 cm-1).

reactant | benzyloxycarbonyl chloride | 3.46 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | N-(4-piperidylmethyl)-N-benzylamine | 4.15 g | N1CCC(CC1)CNCC1=CC=CC=C1 | C13H20N2
reactant | triethylamine | 2.10 g | C(C)N(CC)CC | C6H15N
reactant | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(1-benzyloxycarbonylpiperidin-4-ylmethyl)-N-benzylamine | 3.41 g, yield: 50% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNCC1=CC=CC=C1 | C21H26N2O2
